US07947712B2
2-[8-(Benzyloxy)-5-chloroquinolin-7-yl]-1-[4-(morpholin-4-ylmethyl)phenyl]ethanol
To a stirring solution of [8-(benzyloxy)-5-chloroquinolin-7-yl]acetaldehyde (12.50 mmol) in tetrahydrofuran (100 mL) at 0° C. was dropwise added a 0.25M solution of [4-(4-morpholinylmethyl)phenyl]magnesium bromide in tetrahydrofuran (12.50 mmol, 1.0 eq.) and stirring at 0° C. was continued for 30 min. The reaction mixture was then allowed to warm to room temperature and was stirred 20 min then quenched with saturated aqueous sodium bicarbonate solution (100 mL). After stirring 5 min the reaction mixture was extracted with ethyl acetate (3×75 mL) and the combined organic layers were dried (MgSO4), filtered and concentrated to give a thick brown syrup that was purified by column chromatography using 30% acetone/dichloromethane to give the final product as a white solid (1.50 mmol, 12%). MS (ESI) m/z 489.3; HRMS: calcd for C29H29ClN2O3+H+, 489.19395; found (ESI, [M+H]+ Obs'd), 489.1941.

reactant | [8-(benzyloxy)-5-chloroquinolin-7-yl]acetaldehyde | 12.50 mmol | C(C1=CC=CC=C1)OC=1C(=CC(=C2C=CC=NC12)Cl)CC=O | C18H14ClNO2
reactant | [4-(4-morpholinylmethyl)phenyl]magnesium bromide | N1(CCOCC1)CC1=CC=C(C=C1)[Mg]Br
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12.50 mmol, 1.0 eq. | O1CCCC1 | C4H8O
product | 2-[8-(Benzyloxy)-5-chloroquinolin-7-yl]-1-[4-(morpholin-4-ylmethyl)phenyl]ethanol | 1.50 mmol, 12% | C(C1=CC=CC=C1)OC=1C(=CC(=C2C=CC=NC12)Cl)CC(O)C1=CC=C(C=C1)CN1CCOCC1 | C29H29ClN2O3
